US05910605
A further process starts from 3-chloro-2-methylphenol (Cresp et al., J. Chem. Soc. Perkin Trans.1, 2435(1974)). This is reacted with copper(I) cyanide in pyridine at boiling heat to give 3-hydroxy-2-methylbenzonitrile. In the second stage, the nitrile is hydrolyzed to 3-hydroxy-2-methylbenzoic acid (2) in 18 hours in a boiling mixture of water, glacial acetic acid and concentrated sulfuric acid. The first stage of this process has the significant disadvantage that very toxic copper(I) cyanide is employed--under the reaction conditions toxic hydrogen cyanide gas can escape from the reaction mixture. Harmful pyridine is employed as a solvent. The reaction is distinguished by difficult working up and a high yield of toxic salts. In the second stage (amide hydrolysis), a very long reaction time is necessary. At the very high reaction temperatures, the acidic reaction medium is very corrosive to the materials customarily employed in chemical plants.

reactant | 3-chloro-2-methylphenol | ClC=1C(=C(C=CC1)O)C | C7H7ClO
reactant | copper(I) cyanide | [Cu]C#N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-hydroxy-2-methylbenzonitrile | OC=1C(=C(C#N)C=CC1)C | C8H7NO
